US07645760B2
a) (4-Fluorobenzylamino)-acetic acid ethyl ester
4-Fluorobenzylamine (13.86 g, 110 mmol) was dissolved in 25 ml THF and the solution was cooled to 0° C. Bromo-acetic acid ethyl ester (8.35 g, 50 mmol) dissolved in 25 ml THF was added dropwise at 0° C. After stirring for 2 hours at room temperature the solid was filtered off and the fitrate was evaporated. The title compound was purified by chromatography (SiO2, c-hexane/ethyl acetate, 2/1) and was isolated as yellow oil (10.35 g, 98%).

reactant | 4-Fluorobenzylamine | 110 mmol, 13.86 g | FC1=CC=C(CN)C=C1 | C7H8FN
reactant | Bromo-acetic acid ethyl ester | 50 mmol, 8.35 g | C(C)OC(CBr)=O | C4H7BrO2
solvent | THF | 25 ml | C1CCOC1 | C4H8O
solvent | THF | 25 ml | C1CCOC1 | C4H8O
product | (4-Fluorobenzylamino)-acetic acid ethyl ester | 10.35 g, 98% | C(C)OC(CNCC1=CC=C(C=C1)F)=O | C11H14FNO2
